US07419620B2
A mixture consisting of 2.48 g of 4-hydroxybenzylalcohol, 5.64 g of 6-iodohexyl acrylate, and 2.76 g of potassium carbonate in 50 ml of DMF was stirred under nitrogen atmosphere for 3 h at 60° C. After being cooled to room temperature the reaction mixture was quenched with 100 ml 3N HCl and extracted with diethylether (2×100 ml). The combined ether extracts were washed with saturated NaCl solution, dried over sodium sulphate and concentrated to dryness to give 5.3 g of nearly pure 4-(6-acryloyloxyhexyloxy)benzylalcohol as a beige heavy oil.

reactant | 4-hydroxybenzylalcohol | 2.48 g | OC1=CC=C(CO)C=C1 | C7H8O2
reactant | 6-iodohexyl acrylate | 5.64 g | C(C=C)(=O)OCCCCCCI | C9H15IO2
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-(6-acryloyloxyhexyloxy)benzylalcohol | C(C=C)(=O)OCCCCCCOC1=CC=C(CO)C=C1 | C16H22O4
